US06274758B1
2-[4-(Pyridine-4-carbonyl)benzenesulfonylmethyl]pentanoic acid
(E)-2-Propyl-3-[4-(pyridine-4-carbonyl)benzenesulfonyl]acrylic acid was converted into its HBF4 salt on treatment with 1 equivalent of HBF4 in DCM and evaporation to dryness. (E)-2-Propyl-3-[4-(pyridine-4-carbonyl)benzenesulfonyl]-acrylic acid hydrofluoroborate (0.22 g, 0.49 mmol) and [(R,R)-MeDuPHOS Rh (COD)]BF4 (6 mg, 0.49×10−2 mmol) were place in the pressure vessel under nitrogen, and then the bomb was degassed with hydrogen. Degassed methanol (10 ml) was added and the mixture was hydrogenated at 2070 kPa (300 psi) hydrogen for 16 hour at room temperature. The methanol was removed under reduced pressure. The product was treated with aqueous sodium bicarbonate and then citric acid was added until pH 4. The product was extracted into dichloromethane, which was dried over magnesium sulfate and then evaporated to give the title compound (0.15 g, 83% yield). E.e. was determined by chiral HPLC to be 96% e.e.

reactant | (E)-2-Propyl-3-[4-(pyridine-4-carbonyl)benzenesulfonyl]acrylic acid | C(CC)/C(/C(=O)O)=C\S(=O)(=O)C1=CC=C(C=C1)C(=O)C1=CC=NC=C1 | C18H17NO5S
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | HBF4 | 1 equivalent | [H+].[B-](F)(F)(F)F
reactant | (E)-2-Propyl-3-[4-(pyridine-4-carbonyl)benzenesulfonyl]-acrylic acid | 0.49 mmol, 0.22 g | C(CC)/C(/C(=O)O)=C\S(=O)(=O)C1=CC=C(C=C1)C(=O)C1=CC=NC=C1 | C18H17NO5S
reactant | BF4 | 0.49×10−2 mmol, 6 mg | F[B-](F)(F)F
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-[4-(Pyridine-4-carbonyl)benzenesulfonylmethyl]pentanoic acid | 0.15 g, 83% yield | N1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CCC | C18H19NO5S
